US07238716B2
To a mixture of 4-methoxymethoxymethyl-2-phenyloxazole (10.86 g) and diethyl ether (300 mL) was dropwise added a solution (1.6 M, 37 mL) of n-butyl lithium in hexane at −78° C., and the mixture was stirred at −78° C. for 1.5 hrs. A solution (10 mL) of N,N-dimethylformamide (6.50 g) in diethyl ether was added to the reaction mixture and the reaction mixture was allowed to warm to room temperature with stirring for 2 hrs. Dilute hydrochloric acid was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The obtained residue was subjected to silica gel column chromatography to give crystals (6.45 g, 53%) of 4-methoxymethoxymethyl-2-phenyl-5-oxazolecarbaldehyde from a fraction eluted with ethyl acetate-hexane (1:6, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 51-52° C.

reactant | 4-methoxymethoxymethyl-2-phenyloxazole | 10.86 g | COCOCC=1N=C(OC1)C1=CC=CC=C1 | C12H13NO3
reactant | n-butyl lithium | 1.6 M, 37 mL | C(CCC)[Li]
reactant | N,N-dimethylformamide | 10 mL, 6.50 g | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
product | 4-methoxymethoxymethyl-2-phenyl-5-oxazolecarbaldehyde | 6.45 g, 53% | COCOCC=1N=C(OC1C=O)C1=CC=CC=C1 | C13H13NO4
